datasets/10k__Tet_Int.csv
SMILES Labelled
"C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C([H])[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[O]C.[Cl-]>>[Cl-].[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[O]C 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O:10]C(C)C(C)N1C>>[O-:10]C(C)C(C)N([C:20](OCC)=[O:21])C 21=20;20,10=10"
"[NH:10](C)C(C)C([H])C([H])C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C([H])C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"CCN([C:20]1(OC(C([O:21]1)CC)C1=CC=CC=C1)[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C([O-:21])CC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[O]C 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CC)C>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CC)[O-:10])C 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(C)C(C)=C(C)C(C)[O+:10]1([K])>>[O:10]([K])C(C)/C(C)=C(C)\C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[O]2.C[S:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)C)CC)CC)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])C)CC)CC)C1=CC=CC=C1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CCCCCC)[H]>>CCN([C:20]1(OC(C(C([O:21]1)CC)CC)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S]C([H])C(CC)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CCCCCC)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CCCCCC)[H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)C1=CC=CC=C1>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[S]2.[H][S:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C(CC)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C(CC)[O]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C([H])[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C([H])[S]2.[H][S:10][H] 21=20;20,10=10"
"[H]C1C(O[C:20](N1[H])([O-:10])[Cl:21])CCCCCC>>[H]C1C(O[C:20](=[O:10])N1[H])CCCCCC.[Cl-:21] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(O)C([H])C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C([H])C(O)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[OH:10]C([H])C([H])C(C)C(O)[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(O)C(C)C([H])C([H])[OH+:10]1 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([O]C)[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([O]C)[S]CC 10=20;20,21=21"
"[O-:10]C([H])C(C)C([H])C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C([H])C(C)C([H])[O:10]1 10=20;20,21=21"
"[OH:21][C:20]1(OC)[OH+:10]C(C)C(C)N1C>>[OH:10]C(C)C(C)N([C:20](OC)=[OH+:21])C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C)[NH]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C[S:10][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])CC)CCCCCC>>CCN([C:20]1(OC(C(C([O:21]1)C)[H])CC)[O-:10])CCCCCC 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]CC)([NH][H])[O][H].[Cl-]>>[Cl-].C[O:10][H].CC[NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
